Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
___ female with multiple medical problems including known Type 
1 Diabetes Mellitus and autonomic dysfunction was admitted with 
syncope. 

Of note, she has had the following multiple admissions over the 
last 30 days. 
- ___ - diagnostic angiogram for right lower 
extremity claudication
- ___ - admission for right common femoral to anterior 
tibial bypass. After that admission, she was discharged on 
metoprolol 12.5mg PO bid. It is unclear why this medication was 
started. 
- ___ - admission for syncope. Patient had several 
episodes of syncope within 24 hours of discharge from rehab with 
associated arm shaking. Her beta blocker was discontinued, she 
received IVF, she was monitored on telemetry, and she ruled-out 
for an MI. She was evaluated by neurology during this admission, 
and her symptoms were thought likely related to autonomic 
dysfunction and not consistent with seizure. She had no further 
episodes and was discharged with plans to follow-up with 
neurology and cardiology.  

Since her discharge on ___, she has continued to have 
dizziness and loss of consciousness lasting for approximately 
___ and then returns to her baseline. She reportedly had 2 
episodes on the day prior to admission and then 5 episodes on 
the day of admission. For the two episodes on the day prior to 
her admission, she says that she was sitting at her table 
watching TV around 11:30am when she felt light-headed and then 
lost consciousness for several seconds. She then regained 
consciousness, and she returned to her baseline. She then had a 
second episode at 4pm or 5pm. The on the day of admission, she 
reports approximately 5 more episodes in rapid succession while 
watching TV. She says that she has otherwise been eating well 
and no episodes of chest pain, numbness, tingling, focal motor 
weakness, urinary or fecal incontinence. Review of systems is 
otherwise notable for one loose stool on the morning of 
admission.

She has undergone a thorough cardiac evaluation in 
electrophysiology clinic for her syncope, and her symptoms were 
thought most likely related to orthostatic hypotension. Her 
cardiac evaluation has included a ___ of Hearts 
monitor, and echocardiogram.

Upon arrival to the ED, temp 96.6, HR 72, BP 114/68, RR 16, and 
pulse ox 100% on room air. Exam was notable for being 
orthostatic  with BP decrease from 121/60 to 92/57 and HR from 
64 to 67  with lying down to standing in the ED. Labs were 
notable for serum aspirin level of 4 and hct 30.5. CT Head was 
unremarkable. She received approximately 1 L IVF. 

Review of systems:  
(+) Per HPI. light-headedness, passing out, loose stool x 1.
(-) Denies pain, fever, chills, night sweats, weight loss, 
headache, sinus tenderness, rhinorrhea, congestion, cough, 
shortness of breath, chest pain or tightness, palpitations, 
nausea, vomiting, constipation, abdominal pain, change in 
bladder habits, dysuria, arthralgias, or myalgias.  
 
Past Medical History:
1. Sciatica with h/o laminectomy.  
2. DM1 for ___ years, on insulin pump, with gastroparesis, CKD, 
peripheral neuropathy  
3. Hypercholesterolemia  
4. h/o CP in ___, cardiac cath clean - sx's felt to be ?spasms, 
recent MIBI ___ wnl 
5. HTN  
6. Hiatal hernia  
7. s/p hysterectomy  
8. Hypothyroidism  
9. Autonomic Dysfunction
10.CKD II, baseline creat 1.3-1.5
11.PAD s/p recent fem-tib bypass RLE ___
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___
Father - coronary artery disease with MI in her ___, died at age 
___
 
Physical Exam:
T 98 / HR 65 / BP 104/64 / RR 18 / Pulse ox 99% on room air / 63 
inches / Weight 141.7 lbs
Gen: no acute distress, resting comfortably in bed, speaking 
clearly
HEENT: Clear OP, MMM
NECK: Supple, No LAD, No JVD
CV: RR, NL rate. NL S1, S2. ___ systolic murmur heard best at 
LUSB
LUNGS: CTA, BS ___, No W/R/C
ABD: Soft, NT, ND. NL BS.  No HSM
EXT: No edema. well-healing right lower extremity scars with 
steristrips in place without evidence of erythema / drainage / 
tenderness. Right groin incision with mild erythema but no 
discharge, tenderness, or drainage
SKIN: No lesions
NEURO: A&Ox3. Appropriate. CN ___ intact. Preserved sensation 
throughout. ___ strength throughout. Normal coordination. Gait 
assessment deferred
PSYCH: Listens and responds to questions appropriately, pleasant
.
On discharge
Vitals: 97.9  156/86  68  16  98%RA
lying SBP 140, standing 120  HR 60->70
Pain: denies
Access: PIV
Gen: nad
HEENT: o/p clear, mmm
CV: RRR, no m
Resp: CTAB, no crackles or wheezing
Abd; soft, nontender, +BS
Ext; no edema
Neuro: A&OX3, grossly nonfocal, gait not assessed
Skin: RLE incisions c/d/i except for at the groin, there is some 
incisional opening with fibrinous exudate, no fluctuance, mild 
erythema along incision but no clear cellulitis
psych: appropriate
.
 
Pertinent Results:
no leukocytosis
hgb 10.2 (since ___ surgery, previously ___ MCV ___
Chem: K 4.3  Creat 1.6-->1.2 (baseline)
Mag 1.8
Trop <0.01
S tox neg
TSH 2.4
Vit B12 wnl
SPEP wnl
UPEP pending
.
.
Imaging/results: 
___: Carotid US: stable L 60-69% disease, not much on R sided
.
EEG ___: no epileptic activity
.
___ CT Head - final read - No acute intracranial hemorrhage 
or mass effect
.
___ ___ - No anginal type symptoms or ischemic EKG 
changes. Nuclear 
report sent separately; Normal ventricular perfusion and 
function
.
___ Echo - Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
No structural cardiac cause of syncope identified.
.
___ ___ of Hearts Holter Monitor - On ___ the baseline 
recording was sinus rhythm at rates 68 to 73 BPM without ectopy. 
The baseline intervals were as follows: rate 69 BPM: QT .39, QRS 
.08, PR .18 (all within normal limits).  Two recordings with 
complaints of "a little dizziness" showed sinus rhythm at rates 
79 to 84 BPM without ectopy. 
.
___ Carotid US 
1. Approximately 60-69% left mid ICA stenosis. 
2. No significant right ICA stenosis (graded as less than 40% ). 


 
Brief Hospital Course:
___ female with h/o longstanding DM I with triopathy, PAD s/p 
recent bypass, Hypothyroidism, known autonomic dysfunction 
admitted with recurrent syncope. Found to be orthostatic on 
admission with mild ARF on CKD. Got IVFs with improvement. Is 
encouraged to keep hydrated. She had no events on tele but she 
also had no syncopal events here either. Pt was seen again by 
neuro here who felt it was still c/w autonomic dysfunction/vagal 
hypersensitivity/chronotropic incompetence. She reports some 
episodes when lying down, which doesnt really support the 
hypothesis. Pt thinks it may have happened with turning her head 
to L side, brings up carotid hypersensivity but only 1 episode 
so not clear, she will pay attention if recurrs. Note, repeat 
carotid US here stable L 60-69% disease. Per NEuro, got EEG to 
complete w/u though very low suspicion, which was normal. Plan 
is to encourage PO hydration, started salt tabs, wear graduated 
thigh stockings to maintain BP, avoid prolonged 
standing/sitting, keep legs elevated, minimize narcotics and 
ativan. her gabapentin dose was reduced from 800bid to ___ qhs 
as well (also to renally dose). Instructed NOT to drive. She 
should follow up with Dr. ___ in ___ clinic. Other 
issue was her groin wound, which was slightly open and red along 
the incision, but no induration or fluctuance to suggest wound 
infection/cellulitis at this time and she did not have any 
fever/leukocytosis. given she is diabetic and high risk, we set 
up ___ for wound care at home. She has f/u with Dr. ___ on 
___. 
.
See below for daily progress note for further details:
.
Recurrent Syncope: In recent and past evaluations, has been 
attributed to autonomic dysfunction/vagal 
hypersensitivity->orthostatic hypotension w/o HR response. Taken 
off all BP meds. Has had cardiac eval in past unrevealing (no EP 
study though). Unusual that she reports syncopal episodes in 
lying down position->does not support above hypothosesis and 
brings up carotid hypersensitivity (pt thinks may have occured 
with head turned to L).  Has known L carotid disease but stable 
at 69% on US here. No evnets on tele but also no syncopal events 
while here. Fluids help orthostasis but pt easily again 
orthostatic when off. Repeat eval by neuro still feel mostly 
autonomic dysfunction with orthostasis and chronotropic 
incompetence. Encourage PO hydration, started salt tabs, Rx 
graduated stockings to maintain BP. finally, advised to minimize 
narcotics for pain and decrease dose of neurontin as both can 
worsen. F/u Dr. ___ in ___ clinic re: further 
management (?florinef)
.
ARF on CKD II: Creat 1.6 on admission, improved to 1.2 
(baseline) with IVFs.  PO hydration
-renally dose meds, avoid nephrotoxins
.
Wound Care: groin incision with opening and some exudate but no 
clear pus/fluctuance/induration> mild surrounding erythema and 
soreness along incision but no clear cellulitis. pt afebrile. no 
leukocytosis. is diabetic and high risk. will set up home ___ 
for wound checks and low threshold to start Abx. For pain 
control, encouraged to take tylenol and minimize narcotics as 
above
.
Type 1 Diabetes Mellitus, controlled and with complications. A1c 
7.2 in ___. 
- continue home regimen of lantus and insulin pump and SSI
.
Hypothyroidism: Stable
- continue levothyroxine
.
Peripheral Vascular Disease s/p fem-tib bypass procedure ___
- continue aspirin and plavix
- outpatient follow-up with Dr. ___
- see wound care above
.
Anemia, acute blood loss from vascular surgery: s/p 2U prbc a 
few weeks ago. stable since hgb around 10
.
Diabetic Gastroparesis: Stable
- continue reglan
.
GERD: Stable
- continue PPI
.
Depression: Stable
- continue citalopram and ativan prn anxiety
.
Hyperlipidemia: Stable
- continue statin and aspirin
.
Supine HTN: will not treat ___ complications of orthostasis
.
Chronic Back Pain
- again, asked to minimize oxycontin with oxycodone 
- continue gabapentin at reduced dose 300mg qhs (renally dosed), 
was on 800mg bid
- tylenol encouraged 
.
Dry Eyes: Stable
- artificial tears
.
 full code.   
.
Husband ___ ___
.

 
Medications on Admission:
1. Docusate Sodium 100 mg PO tid
2. Humalog per insulin pump  
3. Gabapentin 800 mg PO q12h
4. Aspirin 81 mg PO daily
5. Oxycodone 40 mg Tablet Sustained Release PO bid
6. Cyclosporine 0.05 % drops prn  
7. White Petrolatum-Mineral Oil 42.5-56.8 % Ointment prn for dry 
eyes
8. Senna 8.6 mg PO bid prn constipation
9. Oxycodone 5 mg PO q4h prn pain 
10. Pantoprazole 40 mg PO daily 
11. Oxycodone 10 mg PO qhs
12. Bisacodyl 10mg PO daily prn constipation 
13. Acetaminophen 325 mg PO q6h prn pain
14. Multivitamin 1 tab PO daily
15. Metoclopramide 10 mg PO qidachs
16. Erythromycin 5 mg/g Ointment daily
17. Clopidogrel 75 mg PO daily
18. Citalopram 40 mg PO daily
19. Levothyroxine 75 mcg PO daily
20. Lorazepam 0.5 mg PO qhs prn anxiety
21. Mupirocin Calcium 2 % Cream bid
22. Simvastatin 40 mg PO qhs 
23. Caltrate 600+D 1 tab daily 
24. Lantus 15 units qhs
 
 
Discharge Medications:
1. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q24H (every 
24 hours): this is reduced dose.  
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Oxycodone 40 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours): PLEASE 
MINIMIZE THIS.  
4. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain: PLEASE MINIMIZE THIS.  
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
7. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Metoclopramide 10 mg Tablet Sig: One (1) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
9. Erythromycin 5 mg/g Ointment Sig: One (1)  Ophthalmic DAILY 
(Daily).  
10. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia, anxiety: PLEASE MINIMIZE THIS.  

14. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. Caltrate-600 Plus Vitamin D3 600-400 mg-unit Tablet Sig: One 
(1) Tablet PO once a day.  
16. Lantus 100 unit/mL Cartridge Sig: 15 Units  Subcutaneous at 
bedtime: also, please continue your insulin pump.  
17. White Petrolatum-Mineral Oil 42.5-56.8 % Ointment Sig: One 
(1) Appl Ophthalmic PRN (as needed) as needed for dry eyes.  
18. Sodium Chloride 1 gram Tablet Sig: Two (2) Tablet PO BID (2 
times a day): NEW MEDICATION.
Disp:*120 Tablet(s)* Refills:*2*
19. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO twice 
a day: stool softner for constipation.  
20. Humalog 100 unit/mL Cartridge Sig: One (1)  Subcutaneous 
insulin pump.  
21. Cyclosporine 0.05 % Dropperette Sig: One (1)  Ophthalmic 
once a day: resume prior dosing.  
22. Dulcolax 5 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day as needed for 
constipation: for constipation.  
23. Reglan 10 mg Tablet Sig: One (1) Tablet PO four times a day: 
before meals and at bedtime.  
24. Mupirocin 2 % Ointment Sig: One (1)  Topical twice a day: to 
wound.  
25. Graduated Compression stockings (15mm difference) to thigh
Please provide graduated thigh stockings

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Recurrent Syncope due to autonomic dysfunction/vagal 
hypersensitivity/chronotropic incompetence
ARF on CKD resolved
R groin wound
 
Discharge Condition:
STABLE
 
Discharge Instructions:
You were admitted for work up of recurrent syncope. The cause is 
still likely that you have autonomic dysfunction that causes 
drop in your blood pressure without increase in your heart rate 
to compensate. After fluids, you did not have any episodes here. 
This can be worsened by dehydration (drink lots of fluid), 
prolonged standing/sitting (please get stockings to thigh to 
help keep your blood pressure up), pain medications (minimize 
oxycodone/oxycontin and decrease dose of gabapentin, minimize 
ativan). We have started salt tabs to help keep your blood 
pressure up. Please see Dr. ___ further management. If 
you have recurrent passing out when lying down, try to see if 
you can correlate it to certain neck movement, etc. do not stand 
up for prolonged periods. It is NOT safe for you to drive given 
these episodes are unpredictable. 
.
Please pay close attention to the wound in your groin. Because 
of diabetes, you are prone to infections. If it gets redder or 
with more pus, then you will need antibiotics. call Dr. ___ 
___ away, esp if you have fever. You have an appt with him on 
___
 
Followup Instructions:
___